US06004959
5-(-2-pyrrolidinyl-ethoxy)-1-amino-4-methoxy-2-propyloxy-fluoren-9-one hydrochloride
5-(2-Pyrrolidinyl-ethoxy)-4-methoxy-2-propoxy-1-nitro-fluoren-9-one (0.30 g, 0.7 mmol) and stannous chloride dihydrate (1.0 g, 0.7 mmol) are reacted as described in Example 9A to give the title compound (0.10 g, 33%). m.p. 122°-124° C.

reactant | 5-(2-Pyrrolidinyl-ethoxy)-4-methoxy-2-propoxy-1-nitro-fluoren-9-one | 0.7 mmol, 0.30 g | N1(CCCC1)CCOC1=C2C=3C(=CC(=C(C3C(C2=CC=C1)=O)[N+](=O)[O-])OCCC)OC | C23H26N2O6
reactant | SnCl2.2H2O | 0.7 mmol, 1.0 g | O.O.Cl[Sn]Cl
product | 5-(-2-pyrrolidinyl-ethoxy)-1-amino-4-methoxy-2-propyloxy-fluoren-9-one hydrochloride | 0.10 g, 33% | Cl.N1(CCCC1)CCOC1=C2C=3C(=CC(=C(C3C(C2=CC=C1)=O)N)OCCC)OC | InChI=1S/C23H28N2O4.ClH/c1-3-12-28-18-14-17(27-2)20-19-15(23(26)21(20)22(18)24)7-6-8-16(19)29-13-11-25-9-4-5-10-25;/h6-8,14H,3-5,9-13,24H2,1-2H3;1H
